US04906621
A mixture of 0.60 g of cis methyl N-t-butoxycarbonyl-4-(2-bromoethyl)pyrrolidine-2-carboxylate and 3 ml triethyl phosphite is refluxed for 2 hours. The excess triethyl phosphite is distilled off under vacuum and the residue is flash chromatographed with methylene chloride/methanol (95:5) to afford cis methyl N-t-butoxycarbonyl-4-(2-diethylphosphonoethyl)pyrrolidine-2-carboxylate.

reactant | cis methyl N-t-butoxycarbonyl-4-(2-bromoethyl)pyrrolidine-2-carboxylate | 0.60 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)CCBr)C(=O)OC | C13H22BrNO4
reactant | triethyl phosphite | 3 ml | P(OCC)(OCC)OCC | C6H15O3P
product | cis methyl N-t-butoxycarbonyl-4-(2-diethylphosphonoethyl)pyrrolidine-2-carboxylate | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)CCP(=O)(OCC)OCC)C(=O)OC | C17H32NO7P
